US06649643B1
Production of 6-Bromo-2-hydroxy-1-naphthoic Acid
To a ice-cooled mixture of 6-Bromo-2-hydroxy-1-naphthaldehyde (24.0 g) and aqueous NaH2PO4 solution (3.2 g in 30 mL of water) in DMSO (160 mL) was added dropwise a solution of NaClO2 (80%; 15.1 g) in water (150 mL) over 1 h. After being stirred for 5 h at room temperature, a solution of NaClO2 (80%; 2.16 g) in water (20 mL) was added, and the reaction mixture was further stirred for 2 h at room temperature. The mixture was alkalized with 1N-NaOH, and the precipitate was filtered off. The filtrate was washed with AcOEt and iPr2O, and then the aqueous phase was acidified with conc. HCl. The precipitate was filtered, washed with water, and dried in vacuo to give the title compound (22.3 g) as a brown powder.

reactant | 6-Bromo-2-hydroxy-1-naphthaldehyde | 24.0 g | BrC=1C=C2C=CC(=C(C2=CC1)C=O)O | C11H7BrO2
reactant | NaClO2 | 15.1 g | [O-]Cl=O.[Na+]
reactant | NaClO2 | 2.16 g | [O-]Cl=O.[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | DMSO | 160 mL | CS(=O)C | C2H6OS
solvent | water | 150 mL | O | H2O
solvent | water | 20 mL | O | H2O
product | 6-Bromo-2-hydroxy-1-naphthoic Acid | 22.3 g | BrC=1C=C2C=CC(=C(C2=CC1)C(=O)O)O | C11H7BrO3
